US06207665B1
To a solution of 1-((3,4,5-trimethoxyphenoxy)methyl)carbonyl-2-(methoxycarbonyl)methyl-4-(4-fluorobenzyl)piperazine (0.20 g, 0.42 mmol) in a methanol/water solution (20 mL, 3:1) was added lithium hydroxide, monohydrate (0.40 mL, 9.5 mmol). The resultant mixture was stirred at ambient temperature for 30 min. At that time HPLC analysis showed complete conversion had occurred. The mixture was poured into ethyl acetate and washed sequentially with an aqueous acetic acid/water solution (pH<4), water, and brine. The organic layer was separated, dried over MgSO4, filtered and concentrated in vacuo to afford 0.060 g of 1-((3,4,5-trimethoxyphenoxy)methyl)carbonyl-2-(carboxy)methyl-4-(4-fluorobenzyl)piperazine as a white solid; NMR (CDCl3) 7.4 (m, 2), 7.1 (m, 2), 6.2 (m, 2), 5.1 (m, 1), 4.7 (m, 3), 4.0 (m, 2), 3.8 (d, 9), 3.3-3.1 (m, 4), 2.6 (m, 2), 2.4 (m, 2) ppm, MS (ESI) 476.

reactant | 1-((3,4,5-trimethoxyphenoxy)methyl)carbonyl-2-(methoxycarbonyl)methyl-4-(4-fluorobenzyl)piperazine | 0.42 mmol, 0.20 g | COC=1C=C(OCC(=O)N2C(CN(CC2)CC2=CC=C(C=C2)F)CC(=O)OC)C=C(C1OC)OC | C25H31FN2O7
reactant | methanol water | 20 mL | CO.O
reactant | lithium hydroxide, monohydrate | 9.5 mmol, 0.40 mL | O.[OH-].[Li+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-((3,4,5-trimethoxyphenoxy)methyl)carbonyl-2-(carboxy)methyl-4-(4-fluorobenzyl)piperazine | 0.060 g | COC=1C=C(OCC(=O)N2C(CN(CC2)CC2=CC=C(C=C2)F)CC(=O)O)C=C(C1OC)OC | C24H29FN2O7
